US03939159
100 g (0.75 mole) of 2,5-dimethoxytetrahydrofuran are added dropwise to a stirred solution of 86.3 g (0.5 mole) of 4-chloro-2-nitroaniline in 500 ml. of glacial acetic acid. The solution is refluxed under a nitrogen atmosphere for 30 minutes, filtered, and poured into 2500 ml. of water. The aqueous solution is extracted with chloroform. The chloroform solution is dried with anhydrous sodium sulfate and concentrated to a brown oil. The brown oil is dissolved in an ether-petroleum ether-mixture and placed in a refrigerator overnight. An orange solid precipitates and is recrystallized from an ether petroleum ether mixture to give 1-(4-chloro-2-nitrophenyl) pyrrole, m.p. 55°-56° C.

reactant | 2,5-dimethoxytetrahydrofuran | 0.75 mole, 100 g | COC1OC(CC1)OC | C6H12O3
reactant | 4-chloro-2-nitroaniline | 0.5 mole, 86.3 g | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(4-chloro-2-nitrophenyl) pyrrole | ClC1=CC(=C(C=C1)N1C=CC=C1)[N+](=O)[O-] | C10H7ClN2O2
